US05948820
(9) 2-tert-Butoxycarbonylamino-2-ethyl-4-(4-(4-phenylbutyloxy)phenyl)butyl acetate
To a suspension of sodium hydride (0.65 g) in dimethylformamide (16 ml) was added a solution of 2-tert-butoxycarbonylamino-2-ethyl-4-(4-hydroxyphenyl)butyl acetate (6.0 g) in dimethylformamide (50 ml) at 0° C. and the mixture was stirred at room temperature for an hour. 4-Phenyl-butyl iodide (90 g) was added to the solution at 0° C. and the mixture was allowed to stand at room temperature overnight. The reaction mixture was poured into water and extracted with ethyl acetate. The ethyl acetate layer was washed with water and a saturated brine and dried over anhydrous sodium sulfate. The solvent was distilled away under reduced pressure and the residue obtained was purified by silica gel column chromatography (eluent; n-hexane:ethyl acetate=1:1) to give the subject compound (3.6 g). 1H-NMR (270 MHz, CDCl3) δ: 0.89 (3H, t, J=7.3 Hz), 1.45 (9H, s), 1.65-2.01 (8H, m), 2.08 (3H, s), 2.50 (2H, t, J=8.6 Hz), 2.67 (2H, t, J=6.6 Hz), 3.94 (2H, t, J=5.94 Hz), 4.22 (2H, dd, J=16, 11 Hz), 4.42 (1H, br. s), 6.80 (2H, d, J=8.6 Hz) 7.07 (2H, d, J=8.6 Hz), 7.16 (3H, t, J=7.3 Hz), 7.26-7.31 (2H, m)

reactant | sodium hydride | 0.65 g | [H-].[Na+]
reactant | 2-tert-butoxycarbonylamino-2-ethyl-4-(4-hydroxyphenyl)butyl acetate | 6.0 g | C(C)(=O)OCC(CCC1=CC=C(C=C1)O)(CC)NC(=O)OC(C)(C)C | C19H29NO5
reactant | 4-Phenyl-butyl iodide | 90 g | C1(=CC=CC=C1)CCCCI | C10H13I
reactant | water | O | H2O
solvent | dimethylformamide | 16 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 2-tert-Butoxycarbonylamino-2-ethyl-4-(4-(4-phenylbutyloxy)phenyl)butyl acetate | 3.6 g | C(C)(=O)OCC(CCC1=CC=C(C=C1)OCCCCC1=CC=CC=C1)(CC)NC(=O)OC(C)(C)C | C29H41NO5
